US03965015
Preparation of 1-Dodecyl-3-(3'-aminopropyl) urea
In a 500 ml flask protected by a soda lime tube is placed 8 g (0.108 mole) of 1,3-diaminopropane in 150 ml ether. The solution is stirred in an ice bath for 30 minutes during the slow addition of a solution of 11.1 g (0.0525 mole) dodecyl isocyanate in 50 ml ether. After standing 15 minutes, the white solid precipitate was separated by filtration, washed well with ether, and dried. The 15.2 g solid obtained is crystallized from a mixture of 1100 ml alcohol and 600 ml water. From the 10.7 g which dissolved, there is obtained 9.2 g recrystallized product. An analytical sample recrystallized from acetonitrile melted at 97°-98°C.

reactant | 1,3-diaminopropane | 0.108 mole, 8 g | NCCCN | C3H10N2
reactant | dodecyl isocyanate | 0.0525 mole, 11.1 g | C(CCCCCCCCCCC)N=C=O | C13H25NO
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-Dodecyl-3-(3'-aminopropyl) urea | 15.2 g | C(CCCCCCCCCCC)NC(=O)NCCCN | C16H35N3O
